US04666902
6-(4-Cyanophenyl)-5-hydroxymethyl-2,3,4,5-tetrahydropyridazin-3-one
3.0 g (0.014 mol) of 4-(4-cyanophenyl)-carbonyl-γ-butyrolactone and 1 ml (0.021 mol) of hydrazine hydrate are stirred in 50 ml of ethanol and 50 ml of dimethylformamide at room temperature for 10 hours. After addition of 1 ml of acetic acid, the mixture is stirred at 80° C. for 18 hours and worked up as above.

reactant | 4-(4-cyanophenyl)-carbonyl-γ-butyrolactone | 0.014 mol, 3.0 g | C(#N)C1=CC=C(C=C1)C1CC(C(=O)O1)=C=O | C12H7NO3
reactant | hydrazine hydrate | 0.021 mol, 1 ml | O.NN
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(4-Cyanophenyl)-5-hydroxymethyl-2,3,4,5-tetrahydropyridazin-3-one | C(#N)C1=CC=C(C=C1)C=1C(CC(NN1)=O)CO | C12H11N3O2
